US07709468B2
3-(2-Cyclopropylaminopyrimidin-4-yl)-2-(4-fluorophenyl)-7H-imidazo[1,2-a]pyrazin-8-one
Cyclopropyl-{4-[2-(4-fluorophenyl)-8-methoxyimidazo[1,2-a]pyrazin-3-yl]-pyrimidin-2-yl}-amine (Example #A.10.1, 0.156 g, 0.414 mmol) was treated with a 4 M solution of hydrogen bromide in acetic acid (3 mL, 12 mmol) at ambient temperature. After about 45 min the mixture was treated with Et2O and filtered, washing the solid successively with Et2O, saturated aqueous NaHCO3 and Et2O. The solid was then dried in the oven for about 16 h to yield the product as white solid (0.115 g, 77%): LC/MS (Table 1, Method b) Rt=1.7 min; MS m/z: 361.4 (M−H)−.

reactant | Cyclopropyl-{4-[2-(4-fluorophenyl)-8-methoxyimidazo[1,2-a]pyrazin-3-yl]-pyrimidin-2-yl}-amine | 0.414 mmol, 0.156 g | C1(CC1)NC1=NC=CC(=N1)C1=C(N=C2N1C=CN=C2OC)C2=CC=C(C=C2)F | C20H17FN6O
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 12 mmol, 3 mL | C(C)(=O)O | C2H4O2
solvent | Et2O | CCOCC | C4H10O
product | 3-(2-Cyclopropylaminopyrimidin-4-yl)-2-(4-fluorophenyl)-7H-imidazo[1,2-a]pyrazin-8-one | 0.115 g, 77% | C1(CC1)NC1=NC=CC(=N1)C1=C(N=C2N1C=CNC2=O)C2=CC=C(C=C2)F | C19H15FN6O
